US04814329
According to the method described in Example 2 g (25 mmoles) of 5-benzyl-benzimidazoline-2-thione, 4.32 g (30 mmoles) of 2-(dimethylamino)-ethylchloride hydrochloride and 2.55 g of sodium hydrogencarbonate are refluxed in methanol. The salt is filtered off, the filtrate is concentrated and treated with aqueous sodium hydroxide solution and dichloromethane. The organic phase is separated, concentrated and the salt is precipitated by adding hydrochloric ether. 8.15 g (84.8%) of 2-(2-dimethylaminoethylthio)-5-benzyl-benzimidazole dihydrochloride are obtained, which melts at 204° C. after recrystallization from isopropanol.

reactant | 5-benzyl-benzimidazoline-2-thione | 25 mmoles, 2 g | C(C1=CC=CC=C1)C1=CC2=C(NC(N2)=S)C=C1 | C14H12N2S
reactant | 2-(dimethylamino)-ethylchloride hydrochloride | 30 mmoles, 4.32 g | Cl.CN(CCCl)C
reactant | sodium hydrogencarbonate | 2.55 g | C(O)([O-])=O.[Na+]
solvent | methanol | CO | CH4O
product | 2-(2-dimethylaminoethylthio)-5-benzyl-benzimidazole dihydrochloride | 8.15 g, 84.8% | Cl.Cl.CN(CCSC=1NC2=C(N1)C=CC(=C2)CC2=CC=CC=C2)C | InChI=1S/C18H21N3S.2ClH/c1-21(2)10-11-22-18-19-16-9-8-15(13-17(16)20-18)12-14-6-4-3-5-7-14;;/h3-9,13H,10-12H2,1-2H3,(H,19,20);2*1H
